US04983619
Boron trifluoride methanol (6.3 ml, 7.6 g) was added to a stirred solution of 5-bromofuran-2-carboxylic acid (10 g) in methanol (90 ml) and heated under reflux under nitrogen for 5 hours. More boron trifluoride methanol (5 ml) was added and the mixture heated under reflux for 5 hours, allowed to cool to room temperature and stand for 10 hours before the solvent was removed in vacuo and the residue poured into saturated sodium hydrogen carbonate solution (300 ml) and extracted with ethyl acetate (3×200 ml). The extract was washed with saturated sodium hydrogen carbonate solution (2×100 ml), dried over MgSO4, and the solvent removed in vacuo to give methyl 5-bromofuran-2-carboxylate, m.p. 62° C.

reactant | Boron trifluoride methanol | 6.3 ml, 7.6 g | CO.B(F)(F)F
reactant | 5-bromofuran-2-carboxylic acid | 10 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | boron trifluoride methanol | 5 ml | CO.B(F)(F)F
solvent | methanol | 90 ml | CO | CH4O
product | methyl 5-bromofuran-2-carboxylate | BrC1=CC=C(O1)C(=O)OC | C6H5BrO3
